US05677316
(2) (S)-4-(3-(N,N-Dibenzylaminomethyl)-3-fluoromethylpyrrolidin-1-yl)-2,3,5-trifluorobenzoyl chloride hydrochloride
(S)-4-(3-(N,N-Dibenzylaminomethyl)-3-fluoromethylpyrrolidin-1-yl)-2,3,5-trifluorobenzoic acid (12.6 g) was dissolved in dry 1,2-dichloroethane (63 ml), and two drops of dry dimethylformamide were added. Thionyl chloride (2.3 ml) was added at room temperature and the mixture was refluxed for 2 hours. The reaction mixture was concentrated to give the object compound as pale-gray crystals, melting point 170°-173° C. (decomposition).

reactant | (S)-4-(3-(N,N-Dibenzylaminomethyl)-3-fluoromethylpyrrolidin-1-yl)-2,3,5-trifluorobenzoic acid | 12.6 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C[C@@]1(CN(CC1)C1=C(C(=C(C(=O)O)C=C1F)F)F)CF | C27H26F4N2O2
reactant | Thionyl chloride | 2.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 63 ml | ClCCCl | C2H4Cl2
catalyst | dimethylformamide | two drops | CN(C=O)C | C3H7NO
product | (S)-4-(3-(N,N-Dibenzylaminomethyl)-3-fluoromethylpyrrolidin-1-yl)-2,3,5-trifluorobenzoyl chloride hydrochloride | Cl.C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C[C@@]1(CN(CC1)C1=C(C(=C(C(=O)Cl)C=C1F)F)F)CF | InChI=1S/C27H25ClF4N2O.ClH/c28-26(35)21-13-22(30)25(24(32)23(21)31)34-12-11-27(16-29,18-34)17-33(14-19-7-3-1-4-8-19)15-20-9-5-2-6-10-20;/h1-10,13H,11-12,14-18H2;1H/t27-;/m0./s1
